US04360466
N'-[2,6-Dichloro-4-(3-fluoro-4-methoxybenzylideneamino)phenyl]-N,N-dimethylformamidine
A 7.0 g. amount of N'-(4-amino-2,6-dichlorophenyl)-N,N-dimethylformamidine and 4.6 g. of 3-fluoro-p-anisaldehyde are each dissolved separately in 25 ml. of warm methanol and then combined. The mixture is cooled at 5° C. The crystallized product is collected and washed with ether to provide 8.2 g. of the product of the Example as yellow crystals, m.p. 139°-141° C.

reactant | N'-(4-amino-2,6-dichlorophenyl)-N,N-dimethylformamidine | NC1=CC(=C(C(=C1)Cl)N=CN(C)C)Cl | C9H11Cl2N3
reactant | 3-fluoro-p-anisaldehyde | FC=1C=C(C=O)C=CC1OC | C8H7FO2
solvent | methanol | CO | CH4O
product | N'-[2,6-Dichloro-4-(3-fluoro-4-methoxybenzylideneamino)phenyl]-N,N-dimethylformamidine | ClC1=C(C(=CC(=C1)N=CC1=CC(=C(C=C1)OC)F)Cl)N=CN(C)C | C17H16Cl2FN3O
